*
L1 N002 0 100m
L2 N002 0 200m
L3 N002 0 150m
L4 N002 0 50m
L5 N002 0 100m
L6 N002 0 150m
L7 N002 0 50m
L8 N002 0 50m
L9 N002 0 150m
L10 N002 0 100m
R1 0 N002 100
V1 N001 0 SINE(0 10 1k)
L11 N002 N001 100m
L12 N002 N001 200m
L13 N002 N001 150m
L14 N002 N001 50m
L15 N002 N001 100m
L16 N002 N001 150m
L17 N002 N001 50m
L18 N002 N001 50m
L19 N002 N001 150m
L20 N002 N001 100m
R2 N001 N002 100
.tran 0 1m 0 1u
.backanno
.end
